US05922747
Methyl (3,4-dihydroxyphenyl)acetate
A mixture of 3,4-dihydroxyphenylacetic acid (10.0 g) and concentrated sulphuric acid (0.5 ml ) in methanol (70 ml) was heated under reflux for 16 hours. The mixture was concentrated, water was added and the mixture was neutralised to pH7 using sodium carbonate. The cloudy solution obtained was extracted with dichloromethane (200 ml), dried (Na2SO4) and evaporated to give a yellow gum (7.64 g). LRMS m/z=183(m+1)+.

reactant | 3,4-dihydroxyphenylacetic acid | 10.0 g | OC=1C=C(C=CC1O)CC(=O)O | C8H8O4
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 70 ml | CO | CH4O
product | Methyl (3,4-dihydroxyphenyl)acetate | 7.64 g | OC=1C=C(C=CC1O)CC(=O)OC | C9H10O4
